US06800629B2
In 3 mL of 90% aqueous solution of trifluoroacetic acid was dissolved 60 mg of {(3aR,4R,6R,6aR)-6-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl dibenzyl phosphate at an ice-cooled temperature. After stirring the solution thus obtained at the same temperature as above for 30 minutes and further at room temperature for 2 hours, the solvent was removed under reduced pressure. Diethyl ether was added to the residue thus obtained, and the solid product was collected by filtration and washed with methanol. Thus, 15 mg of {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dihydrogen phosphate was obtained as a light red-colored solid product.

reactant | {(3aR,4R,6R,6aR)-6-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl dibenzyl phosphate | 60 mg | P(=O)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C(C(=NC=C2)C(=O)N)=O)(OCC2=CC=CC=C2)OCC2=CC=CC=C2 | C27H30N3O9P
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dihydrogen phosphate | 15 mg | P(=O)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(C(=NC=C1)C(=O)N)=O)(O)O | C10H14N3O9P
